data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2195,2433,[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([C:24](=[O:25])[O:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH:1](=[CH:2]\[c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)\[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1>>[C@H:1]1([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[C@H:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:23]([C:24](=[O:25])[O:26][CH3:27])([c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[NH:22][C:19]1([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,18.68421759246737,-15.31336140587822
3462,3942,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14]([CH3:15])[c:16](=[O:17])[o:18]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]1([CH3:15])[NH:13][C:12]2([CH3:11])[O:18][C:16]1=[O:17],water,298.15,23.398129897939164,-4.8510722806318025
1720,1903,[CH3:14][NH:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[C-:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[CH:18]([C:16]([NH:15][CH3:14])=[O:17])[N:19]([CH3:20])[C:21]3([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,15.92830650103688,-47.970300798983935
245,268,[CH3:1][C:2]#[C:3][Cl:4].[CH3:5][NH:6][C:7](=[O:8])[C:9](=[O+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][C:2]1=[C:3]([Cl:4])[C:11]([C:12]#[N:13])([C:14]#[N:15])[O:10][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[C:16]([CH3:17])=[O:18],water,298.15,13.866711204251024,-69.45803278385458
1847,2049,[CH3:13][O:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]([C:20]([CH3:21])=[O:22])=[N:18][C:17]3([C:15]([O:14][CH3:13])=[O:16])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,14.633237269918936,-49.913393927515536
319,348,[CH3:1][C:2]#[C:3][F:4].[CH3:5][NH:6][C:7](=[O:8])[c-:9]1[nH+:10][c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[o:18][c:19]1=[O:20]>>[CH3:1][C:2]1=[C:3]([F:4])[C:9]2([C:7]([NH:6][CH3:5])=[O:8])[NH:10][C:11]1([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[O:18][C:19]2=[O:20],water,298.15,28.29685774119893,-20.309835035181926
3153,3556,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH:11]=[NH+:12][C-:13]([CH3:14])[CH3:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:9]([NH:8][CH3:7])=[O:10])[NH:12][C:13]1([CH3:14])[CH3:15],water,298.15,16.967161167587427,-21.144483158781387
2949,3291,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[C:8]([C:9]#[N:10])=[NH+:11][O-:12]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[O:12][NH:11][C:8]1([C:6]([CH3:5])=[O:7])[C:9]#[N:10],water,298.15,26.07835615965568,-4.995810487286605
4107,4700,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:16]=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,30.340006546654724,2.512651402423796
4074,4665,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH2-:15][O+:16]=[CH:17][C:18](=[O:19])[O:20][CH3:21]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH2:15][O:16][CH:17]2[C:18](=[O:19])[O:20][CH3:21],water,298.15,2.1229102137767404,-52.65134284195384
2557,2837,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([O:13][CH3:14])([O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[c:24]1[nH+:25][c-:26](-[c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[c:33](=[O:34])[o:35]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([O:13][CH3:14])([O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:24]1([C:22]([CH3:21])=[O:23])[NH:25][C:26]2([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[C:33](=[O:34])[O:35]1,water,298.15,19.68364563249026,-10.076405581064195
1902,2107,[CH3:13][C:14](=[O:15])[N-:16][NH+:17]=[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:17][N:16]2[C:14]([CH3:13])=[O:15],water,298.15,46.86270507020397,-5.539385868523516
